US05462941
10.0 g of phthalic anhydride was dissolved in 200 ml of tetrahydrofuran, and 40 ml of cyclohexylmagnesium chloride (2.0M, ether solution) was added dropwise to the solution at -50° C. After stirring the solution at the same temperature for 1 hour, the reaction solution was poured into 0.5-N hydrochloric acid, and extracted with chloroform. After the organic layer was dried over magnesium sulfide, it was purified by silica gel chromatography (eluent: chloroform-methanol) to obtain 12.0 g of o-(cyclohexanoyl) benzoic acid.

reactant | phthalic anhydride | 10.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | cyclohexylmagnesium chloride | 2.0M, 40 ml | C1(CCCCC1)[Mg]Cl
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | o-(cyclohexanoyl) benzoic acid | 12.0 g | C1(CCCCC1)C(=O)C1=C(C(=O)O)C=CC=C1 | C14H16O3
